US06867224B2
Preparation of 5-Hydroxy-benzofuran-2-carboxylic acid methyl ester (Compound 6A)
A solution of 5-methoxy-benzofuran-2-carboxylic acid methyl ester (5.0 g, 24 mmol) in 50 mL DCM at 0° C. was treated portionwise with boron tribromide (4.4 mL of a 1 M solution in DCM). After 3 hours, the reaction mixture was carefully quenched with 50% NH4OH. The organic layer was separated and washed 1×50 mL brine, dried (Na2SO4), and concentrated in vacuo to give 2 g (43%) of the title compound pure enough for subsequent use. 400 MHz 1H NMR (DMSO-d6) δ 9.47 (s, 1H), 7.56 (s, 1H), 7.45 (d, 1H, J=8.8 Hz), 7.00 (s, 1H), 6.91 (d, 1H, J=8.8 Hz), 3.81 (s, 3H). Preparation of 5-Dimethylthiocarbamoyloxy-benzofuran-2-carboxylic acid methyl ester (Compound 6B)

reactant | 5-methoxy-benzofuran-2-carboxylic acid methyl ester | 24 mmol, 5.0 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C11H10O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-benzofuran-2-carboxylic acid methyl ester | 2 g, 43% | COC(=O)C=1OC2=C(C1)C=C(C=C2)O | C10H8O4
